US08252831B2
Benzyl 5-cyano-2-(trifluoromethyl)benzoate
Under a nitrogen atmosphere, to a solution of 5-chloro-2-(trifluoromethyl)benzoic acid (5.02 g, 22.35 mmol, 1.0 equiv) in DMA (45 mL), add zinc(II) cyanide (1.77 g, 15.07 mmol, 0.67 equiv), zinc dust (<10 μM, 330 mg, 5.05 mmol, 0.23 equiv), and bis(tri-tert-butylphosphino)palladium (540 mg, 1.06 mmol, 0.05 equiv). Stir the mixture under a nitrogen atmosphere at 95° C. for 9.5 hours. Add cesium carbonate (13.3 g, 40.82 mmol, 1.83 equiv), then benzyl bromide (3.0 mL, 25.15 mmol, 1.13 equiv), and stir under air at room temperature for 3.5 hours. Concentrate under reduced pressure, add water, and extract with EtOAc. Separate the organic phase and wash with saturated aqueous NaCl, dry over MgSO4, filter, and concentrate under reduced pressure. Subject the resulting crude material to flash chromatography on silica gel eluting with a 0-50% EtOAc/hexanes gradient to give the title compound (3.9 g, 57%). MS (m/z) 306 (M+1).

reactant | 5-chloro-2-(trifluoromethyl)benzoic acid | 22.35 mmol, 5.02 g, 1.0 equiv | ClC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C8H4ClF3O2
reactant | cesium carbonate | 40.82 mmol, 13.3 g, 1.83 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 25.15 mmol, 3.0 mL, 1.13 equiv | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMA | 45 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc(II) cyanide | 15.07 mmol, 1.77 g, 0.67 equiv | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 5.05 mmol, <10 μM, 330 mg, 0.23 equiv | [Zn] | Zn
catalyst | bis(tri-tert-butylphosphino)palladium | 1.06 mmol, 540 mg, 0.05 equiv | C(C)(C)(C)P(C(C)(C)C)(C(C)(C)C)[Pd]P(C(C)(C)C)(C(C)(C)C)C(C)(C)C
product | Benzyl 5-cyano-2-(trifluoromethyl)benzoate | 3.9 g, 57% | C(#N)C=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)C(F)(F)F | C16H10F3NO2
